US04659809
To 200 ml of acetone were added 10.0 g of D-xylose and 89.7 mg of antimony pentachloride, and the mixture was refluxed with stirring in a water bath of 60° C. for 5 hours. During this reaction, the refluxing solvent was dried with 20 g of Molecular Sieves 3A interposed between the reaction vessel and the condenser. After completion of the reaction, a small amount of pyridine was added to the reaction solution, and the acetone was distilled off under reduced pressure. The residue was dissolved in benzene, and the benzene solution was washed with aqueous sodium bicarbonate solution and water successively, and dried over anhydrous magnesium sulfate. The benzene was distilled off under reduced pressure, and the resulting residue was distilled under reduced pressure to give 13.7 g (89.2%) of 1,2:3,5-di-O-isopropylidene-α-D-xylofuranose as a fraction of 94 to 97° C./3 mmHg.

reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | D-xylose | 10.0 g | O=C[C@H](O)[C@@H](O)[C@H](O)CO | C5H10O5
reactant | antimony pentachloride | 89.7 mg | [Sb](Cl)(Cl)(Cl)(Cl)Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 1,2:3,5-di-O-isopropylidene-α-D-xylofuranose | 13.7 g, 89.2% | CC1(OC[C@@H]2[C@H](O1)[C@@H]3[C@H](O2)OC(O3)(C)C)C | C11H18O5
